US07816522B2
(36e) 2-(3-{(3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid
After adding 38 mg of 2-hydrazinobenzoic acid hydrochloride and 0.056 ml of triethylamine to a solution of 91 mg of [2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester in 5 ml of DMF, the mixture was stirred at 90° C. for 20 hours under a nitrogen atmosphere. After cooling the reaction mixture to room temperature, 30 ml of water was added, hydrochloric acid was added (for adjustment to pH 3-4), and extraction was performed with 50 ml of ethyl acetate. The organic layer was washed twice with 30 ml of water and once with 30 ml of saturated brine, and then dried over anhydrous magnesium sulfate. The desiccating agent was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-dichloromethane) to give the title compound (34 mg) as a light yellow solid.

reactant | 2-hydrazinobenzoic acid hydrochloride | 38 mg | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | triethylamine | 0.056 ml | C(C)N(CC)CC | C6H15N
reactant | [2-(3,4-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene]carbamic acid methyl ester | 91 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OC)OC)SC)=O | C22H22N4O5S
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 2-(3-{(3,4-dimethoxyphenyl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)benzoic acid | 34 mg | COC=1C=C(C=CC1OC)C(C1=NN(C(N1)=O)C1=C(C(=O)O)C=CC=C1)=NC1=CC=C(C=C1)C1=NOC(=N1)C | C27H22N6O6
